US08957069B2
1-(7-Ethoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methylphenyl)piperazine
By using 5-bromo-7-ethoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran (500 mg, 1.67 mmol) synthesized in Reference example 98 and 1-(4-methylphenyl)piperazine (589 mg, 3.34 mmol), the reaction was carried out in the same manner as Example 1 to synthesize the title compound 149 mg (yield 23%).

reactant | 5-bromo-7-ethoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran | 1.67 mmol, 500 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)OCC)C | C14H19BrO2
reactant | 1-(4-methylphenyl)piperazine | 3.34 mmol, 589 mg | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
product | 1-(7-Ethoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methylphenyl)piperazine | 149 mg, yield 23% | C(C)OC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCN(CC2)C2=CC=C(C=C2)C)C | C25H34N2O2
